US05190937
3-Mercapto-6-methyl-4-[(2-oxoazacyclotridec-3-yl)aminocarbonyl]heptanoic acid (E3)
To a suspension of 3-mercapto-6-methyl-4-[(2-oxoazacyclotridec-3 yl)aminocarbonyl]heptanoic acid, methyl ester (E2A) (1.03 g) in isopropanol (15 ml), previously purged with nitrogen, was added a solution of sodium hydroxide (0.29 g) in water (5 ml) and the resulting solution was stirred at room temperature, under nitrogen, for 18 h. The solution was acidified with an excess of ethereal-HCl and then evaporated to dryness in vacuo. The residue was treated with isopropanol and then evaporated to dryness in vacuo.

reactant | 3-mercapto-6-methyl-4-[(2-oxoazacyclotridec-3 yl)aminocarbonyl]heptanoic acid, methyl ester | 1.03 g | SC(CC(=O)OC)C(CC(C)C)C(=O)NC1C(NCCCCCCCCCC1)=O | C22H40N2O4S
solvent | isopropanol | 15 ml | C(C)(C)O | C3H8O
product | 3-Mercapto-6-methyl-4-[(2-oxoazacyclotridec-3-yl)aminocarbonyl]heptanoic acid | SC(CC(=O)O)C(CC(C)C)C(=O)NC1C(NCCCCCCCCCC1)=O | C21H38N2O4S
